US07241785B2
A mixture of ethyl (1-benzyl-3-hydroxy-1H-pyrazol-4-yl)acetate (390 mg), 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine (472 mg), potassium carbonate (414 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl [1-benzyl-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]acetate (649 mg, yield 80%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl (1-benzyl-3-hydroxy-1H-pyrazol-4-yl)acetate | 390 mg | C(C1=CC=CC=C1)N1N=C(C(=C1)CC(=O)OCC)O | C14H16N2O3
reactant | 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine | 472 mg | ClCC=1C=CC(=NC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15ClN2O2
reactant | potassium carbonate | 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl [1-benzyl-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]acetate | 649 mg, yield 80% | C(C1=CC=CC=C1)N1N=C(C(=C1)CC(=O)OCC)OCC=1C=NC(=CC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C31H30N4O5
